US09085576B2
To a solution of methyl 5-(cyanomethoxy)-3-methylpicolinate (0.895 g, 4.34 mmol) and sodium iodide (0.354 ml, 8.68 mmol, Sigma-Aldrich Chemical Company, Inc.) in acetonitrile (4.34 ml) was added chlorotrimethylsilane (1.102 ml, 8.68 mmol, Strem Chemicals, Inc.). The reaction mixture was heated to 70° C. and allowed to stir overnight. The reaction mixture was concentrated under reduced pressure and the residue was diluted with water and extracted with EtOAc. The organic extract was washed with water, 10% sodium thio sulfate solution and dried over MgSO4. The filtrate was concentrated in vacuo to give 5-(cyanomethoxy)-3-methylpicolinic acid which was used without further purification. MS m/z=192.9 [M+H]+. Calculated for C9H8N2O3: 192.03

reactant | methyl 5-(cyanomethoxy)-3-methylpicolinate | 4.34 mmol, 0.895 g | C(#N)COC=1C=C(C(=NC1)C(=O)OC)C | C10H10N2O3
reactant | sodium iodide | 8.68 mmol, 0.354 ml | [I-].[Na+]
reactant | chlorotrimethylsilane | 8.68 mmol, 1.102 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | acetonitrile | 4.34 ml | C(C)#N | C2H3N
product | 5-(cyanomethoxy)-3-methylpicolinic acid | C(#N)COC=1C=C(C(=NC1)C(=O)O)C | C9H8N2O3
